* SPICE Netlist for the schematic
IREF N002 0 DC 1mA
* Transistors
* NPN BJT model: .model NPN_MOD NPN (parameters)
QREF N002 N001 0 NPN_REF
? Missing component
* Resistor
RP N001 N002 1k
* BJT Models
.model NPN_REF NPN (Is=1e-15 Bf=100)
.model NPN_Q1 NPN (Is=1e-15 Bf=100)
* Voltage Source for VCC
VCC N003 0 DC 5V
* End of netlist
